US04307116
A solution of methyl N-(2-acetamidoethyl)-dithiocarbamate (57.7 g) and hydrazine hydrate (14.6 cc) in absolute ethanol (300 cc) is heated under reflux for 2 hours. The mixture is then cooled to 4° C. and is filtered, and the insoluble matter is dried at 30° C. under 0.05 mm Hg. 4-(2-Acetamidoethyl)-thiosemicarbazide (39.5 g) is obtained in the form of white crystals (instantaneous m.p. [Kofler]=171° C.).

reactant | methyl N-(2-acetamidoethyl)-dithiocarbamate | 57.7 g | C(C)(=O)NCCNC(SC)=S | C6H12N2OS2
reactant | hydrazine hydrate | 14.6 cc | O.NN
solvent | ethanol | 300 cc | C(C)O | C2H6O
product | 4-(2-Acetamidoethyl)-thiosemicarbazide | 39.5 g | C(C)(=O)NCCNC(NN)=S | C5H12N4OS
